US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole (0.36 g) in dichloromethane (6 mL) were added triethylamine (0.2 mL) and methanesulfonyl chloride (0.05 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethylacetate. The organic layer was washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/3-ethyl acetate) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonylamino)-propoxy]phenyl}methyl)-1H-pyrazole (255 mg). This material was dissolved in methanol (6 mL). To the solution was added sodium methoxide (28% methanol solution, 0.11 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (0.16 g).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 0.36 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCN)C(C)C | C30H41N3O11
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonylamino)-propoxy]phenyl}methyl)-1H-pyrazole | 255 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCNS(=O)(=O)C)C(C)C | C31H43N3O13S
